US04215044
Methyllithium in diethyl ether (141 ml of 1.8 M solution) was added dropwise to a solution of 27.6 g of diisopropylamine in 38 ml of dry diethyl ether. The resulting solution was cooled to -78° C. and 19.7 g of norcamphor in 20 ml of diethyl ether were added dropwise. The reaction mixture was warmed to 0° C. and 46 ml of chlorotrimethylsilane were added. The reaction mixture was warmed to 25° C., stirred for 30 minutes, extracted with cold 5% aqueous sodium bicarbonate, dried (over MgSO4) and then distilled to give 22.3 g of 2-trimethylsiloxybicyclo[2.2.1]-hept-2-ene as a colorless liquid: bp 70°-73° C. (14 mm).

reactant | Methyllithium | C[Li]
reactant | diisopropylamine | 27.6 g | C(C)(C)NC(C)C | C6H15N
reactant | norcamphor | 19.7 g | C1CC2CC1CC2=O | C7H10O
reactant | chlorotrimethylsilane | 46 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | diethyl ether | 1.8 M, 141 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 38 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 2-trimethylsiloxybicyclo[2.2.1]-hept-2-ene | 22.3 g | C[Si](OC=1C2CCC(C1)C2)(C)C | C10H18OSi
